US08633312B2
8-Chloro-1-(2-morpholin-4-yl-ethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one (16)
For the synthesis of the title compound, 0.44 g (1.69 mmol) of 8-chloro-1-hydroxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one, 0.345 g (1.86 mmol) of 4-(2-chloroethyl)morpholine hydrochloride and 0.93 g (6.75 mmol) of K2CO3 in 15 ml of acetonitrile are reacted by method Q. C21H21ClNO3 (Mr=371.87); GC 29.7 min

reactant | 8-chloro-1-hydroxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | 1.69 mmol, 0.44 g | ClC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3O)C1 | C15H11ClO2
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 1.86 mmol, 0.345 g | Cl.ClCCN1CCOCC1
reactant | K2CO3 | 6.75 mmol, 0.93 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 8-Chloro-1-(2-morpholin-4-yl-ethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | ClC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3OCCN3CCOCC3)C1 | C21H22ClNO3
